US05616620
a) 1,2-Dihydro-1,2-diphenyl-3H-1,2,4-triazol-3,5(4H)-dione
50 g (0.378 Mol) of ethylallophanate and 76.6 g (0.416 Mol) of 1,2-diphenylhydrazine were suspended in 100 ml of anhydrous xylene and refluxed for 6 hours with stirring, during which time ammonia was released. The solvent was distilled off, the residue was mixed with 150 ml of xylene once more and refluxed for 1 hour. The mixture was left to cool, the reaction product was suction filtered, and thoroughly washed with cold xylene. After drying in vacuo, 60.0 g (63% of theory) of colourless crystals were obtained, mp. 216°-217° C.

reactant | ethylallophanate | 0.378 Mol, 50 g | C(C)OC(NC(=O)N)=O | C4H8N2O3
reactant | 1,2-diphenylhydrazine | 0.416 Mol, 76.6 g | C1(=CC=CC=C1)NNC1=CC=CC=C1 | C12H12N2
reactant | ammonia | N | H3N
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,2-Dihydro-1,2-diphenyl-3H-1,2,4-triazol-3,5(4H)-dione | C1(=CC=CC=C1)N1N(C(NC1=O)=O)C1=CC=CC=C1 | C14H11N3O2
